US09079889B2
A solution of 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate (1.0 equiv.) in dioxane (0.5 M) was purged with nitrogen for 30 min. Then 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.0 equiv.), KOAc (3.0 equiv.), Pd(dppf)Cl2-DCM (0.2 equiv.) were added and the solution was stirred in a sealed bomb at 80° C. The reaction was filtered over a pad of celite, then to the filtrate was added ethyl acetate, and washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by column (ethyl acetate:hexanes=1:1) to give 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane (95%). LC/MS (m/z): MH+=267.1, Rt=0.95.

reactant | 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | 1.0 equiv. | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.0 equiv. | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3.0 equiv. | CC(=O)[O-].[K+]
solvent | dioxane | 0.5 M | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 DCM | 0.2 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane | 95% | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
